US04542142
A solution of 3 g of (RS)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3-(3-hydroxy-3-oxo-1-propynyl)-cyclopropane-carboxylate in 30 ml of anhydrous dimethylformamide was cooled to +10° C. and 300 mg of 61% sodium hydride in oil were added in portions thereto. Then, over 15 minutes, 2.5 ml of chloromethyl ether solution prepared by mixing 4.5 ml of methylal and 0.52 ml of methanol and slowly adding 3.53 ml of acetyl chloride after which the mixture was stirred for 36 hours at room temperature. The mixture was stirred for 2 hours and was then poured into an aqueous solution of monosodium phosphate. The mixture was extracted with ethyl acetate and the organic phase was washed with water, dried and evaporated to dryness. The residue was chromatographed over silica gel and eluted with a 75-25 mixture of cyclohexane ethyl acetate to obtain 2 g of (RS) α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3-(3-oxo-3-methoxymethoxy-1-propynyl)-cyclopropane-carboxylate.

reactant | (RS)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3-(3-hydroxy-3-oxo-1-propynyl)-cyclopropane-carboxylate | 3 g | CC1([C@@H]([C@@H]1C#CC(=O)O)C(=O)OC(C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C23H19NO5
reactant | sodium hydride | 300 mg | [H-].[Na+]
reactant | chloromethyl ether | 2.5 ml | ClCOCCl | C2H4Cl2O
reactant | methylal | 4.5 ml | COCOC | C3H8O2
reactant | acetyl chloride | 3.53 ml | C(C)(=O)Cl | C2H3ClO
reactant | monosodium phosphate | P(=O)([O-])(O)O.[Na+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | methanol | 0.52 ml | CO | CH4O
product | (RS) α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3-(3-oxo-3-methoxymethoxy-1-propynyl)-cyclopropane-carboxylate | 2 g | CC1([C@@H]([C@@H]1C#CC(OCOC)=O)C(=O)OC(C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C25H23NO6
